US05877191
Step A: 2,5-Bis-trifluoromethylbromobenzene
A suspension of the HBr salt of 2,5-bis-trifluoromethylaniline (1.0 gm, 4.4 mmol) was prepared by addition of 48% HBr (3 gm, 17.5 mmol) and 5 mL of water. This was cooled in an ice bath while a solution of sodium nitrite (335 mg, 4.8 mmol) in 1 mL of water was added dropwise. The reaction was stirred a farther 0.5 hr at which time copper powder (1 gm) and another 3 gm portion of 48% HBr were added. The reaction was heated to reflux and after 10 min the distillate was collected until no organic material was evident with the water. The distillate was extracted twice with ether and the ether layers were washed with brine, dried over sodium sulfate, combined and evaporated. The residue was purified by flash chromatography (5% ethyl acetate/hexanes) to afford the title compound as an oil. NMR (CDCl3): δ 7.68 (d, 1H, J=8 Hz), 7.81 (d, 1H, J=8 Hz), 7.96 (s, 1H).

reactant | HBr | Br | BrH
reactant | 2,5-bis-trifluoromethylaniline | 4.4 mmol, 1.0 gm | FC(C1=C(N)C=C(C=C1)C(F)(F)F)(F)F | C8H5F6N
reactant | HBr | 17.5 mmol, 3 gm | Br | BrH
reactant | sodium nitrite | 4.8 mmol, 335 mg | N(=O)[O-].[Na+]
solvent | water | 1 mL | O | H2O
catalyst | copper | 1 gm | [Cu] | Cu
solvent | water | 5 mL | O | H2O
product | 2,5-Bis-trifluoromethylbromobenzene | FC(C1=C(C=C(C=C1)C(F)(F)F)Br)(F)F | C8H3BrF6
